US05484942
0.35 cm3 of triethylamine and a solution of 0.17 cm3 of phenylacetyl chloride in 5 cm3 of dichloromethane are added to a suspension, cooled to 0° C., of 0.46 g of (4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide hydrochloride in 10 cm3 of dichloromethane. After stirring for 1 hour at 0° C. and then 1 hour at 20° C., the reaction mixture is diluted with 10 cm3 of dichloromethane, washed twice with 30 cm3 of distilled water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained is crystallized from 30 cm3 of ethyl ether, the crystals are drained and dried. 0.50 g of (4aRS,7aRS)-4,4-diphenyl-6-phenylacetylperhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide is obtained in the form of white crystals.

reactant | triethylamine | 0.35 cm3 | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.17 cm3 | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | (4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide hydrochloride | 0.46 g | Cl.C1(=CC=CC=C1)C1(CCS(C2CNCC21)(=O)=O)C2=CC=CC=C2
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | (4aRS,7aRS)-4,4-diphenyl-6-phenylacetylperhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide | 0.50 g | C1(=CC=CC=C1)C1(CCS(C2CN(CC21)C(CC2=CC=CC=C2)=O)(=O)=O)C2=CC=CC=C2 | C27H27NO3S
